US05281571
At 25° C., 1.7 g (5.0 mmole) 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzenemethanol, 0.8 g (5.5 mmole) K2CO3 and 0.7 mL (5.5 mmole) isopropyl bromoacetate were slurried in 15 mL DMSO. The mixture was stirred overnight at 45° C. The mixture was cooled, diluted with 100 mL cold water and extracted four times with ethyl acetate. The ethyl acetate extracts were washed with brine, dried over anhydrous MgSO4 and stripped in vacuo. The residue was purified chromatographically using 10% ethyl acetate in hexane as the eluent to give 0.9 g (41%) of ((2-chloro-5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluorophenyl)methoxy)acetic acid, 1-methylethyl ester as a white solid; mp 55° C.

reactant | 2-chloro-5-[4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl]-4-fluorobenzenemethanol | 5.0 mmole, 1.7 g | ClC1=C(C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C)CO | C12H8Cl2F4N2O
reactant | K2CO3 | 5.5 mmole, 0.8 g | C(=O)([O-])[O-].[K+].[K+]
reactant | isopropyl bromoacetate | 5.5 mmole, 0.7 mL | BrCC(=O)OC(C)C | C5H9BrO2
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | water | 100 mL | O | H2O
product | ((2-chloro-5-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-4-fluorophenyl)methoxy)acetic acid, 1-methylethyl ester | 0.9 g, 41% | ClC1=C(C=C(C(=C1)F)C1=NN(C(=C1Cl)C(F)(F)F)C)COCC(=O)OC(C)C | C17H16Cl2F4N2O3
